US04079182
Hexamethylene tetramine (14.0 g) was added to a mixture of 3-phenoxybenzyl chloride (10.9 g), glacial acetic acid (25 ml) and water (25 ml) under a nitrogen atmosphere and the mixture refluxed for 2.5 hours, after which concentrated hydrochloric acid (20 ml) was added and the refluxing continued for a further 15 minutes. The mixture was cooled to the ambient temperature, extracted with diethyl ether and the extracts washed with water, saturated sodium bicarbonate solution, and finally with water. After drying the ethereal solution over anhydrous magnesium sulphate, the ether was evaporated under reduced pressure to yield 3-phenoxybenzaldehyde, identified by comparison with an authentic sample.

reactant | Hexamethylene tetramine | 14.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 3-phenoxybenzyl chloride | 10.9 g | O(C1=CC=CC=C1)C=1C=C(CCl)C=CC1 | C13H11ClO
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 3-phenoxybenzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
